*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPD350ELL302ML25H
*//   Date        : 2018/02/16
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/135deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD350ELL302ML25H_20deg-C 1 2

C1 4 2 2.16e-03
C2 5 2 4.87e-04
C3 6 2 8.91e-05
R1 3 4 2.27e-02
R2 4 5 4.41e-02
R3 5 6 1.42e+00
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPD350ELL302ML25H_-40deg-C 1 2

C1 4 2 1.90e-06
C2 5 2 5.26e-04
C3 6 2 1.96e-03
R1 3 4 1.23e-01
R2 4 5 9.86e-02
R3 5 6 8.93e-02
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPD350ELL302ML25H_135deg-C 1 2

C1 4 2 2.25e-03
C2 5 2 6.88e-04
C3 6 2 1.19e-04
R1 3 4 1.24e-02
R2 4 5 6.47e-02
R3 5 6 8.40e+00
L1 1 3 7.50e-09

.ENDS
*$
